US07538112B2
Step 4: (6S)-4-Amino-2-(3-chloro-4-fluorobenzyl)-10-hydroxy-8-ethyl-6-methyl-7,8-dihydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione
To a solution of (6S)-4-amino-2-(3-chloro-4-fluorobenzyl)-10-methoxy-8-ethyl-6-methyl-7,8-dihydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione (62 mg, 0.14 mmol) in anhydrous dichloromethane (2 mL), a solution of boron tribromide in dichloromethane (0.43 mL, 0.43 mmol; 1 M) was added. After stirring at room temperature for 30 minutes, the reaction mixture was treated with anhydrous methanol, stirred for 30 minutes, and concentrated under vacuum. The procedure was repeated twice. The residue was subjected to purification on preparative reverse phase high pressure column chromatography. Collection and lyophilization of appropriate fractions provided the title compound.

reactant | (6S)-4-amino-2-(3-chloro-4-fluorobenzyl)-10-methoxy-8-ethyl-6-methyl-7,8-dihydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione | 0.14 mmol, 62 mg | NC1=NN(C(C2=C1N1C(=C2OC)C(N(C[C@@H]1C)CC)=O)=O)CC1=CC(=C(C=C1)F)Cl | C20H21ClFN5O3
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | methanol | CO | CH4O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.43 mmol, 1 M, 0.43 mL | ClCCl | CH2Cl2
product | (6S)-4-Amino-2-(3-chloro-4-fluorobenzyl)-10-hydroxy-8-ethyl-6-methyl-7,8-dihydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione | NC1=NN(C(C2=C1N1C(=C2O)C(N(C[C@@H]1C)CC)=O)=O)CC1=CC(=C(C=C1)F)Cl | C19H19ClFN5O3
